US04392930
In a separate vessel, succinic anhydride (30 g), 2-hydroxyethyl acrylate (34.2 g), tetramethylammonium chloride (0.2 g), and 2,6-di-t-butyl-4-methylphenol (0.15 g) were stirred and heated at 90° C. for 3 hours. The mixture was then cooled to give 3-(2-acryloyloxyethoxycarbonyl)propionic acid. This product (27.2 g) was mixed with 2,6-di-t-butyl-4-methylphenol (0.1 g) and added over 1 hour to the advanced resin at 100° C. The mixture was then stirred for a further 41/2 hours at 100° C., by with time its epoxide content had fallen to a negligibly low level.

reactant | succinic anhydride | 30 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2-hydroxyethyl acrylate | 34.2 g | C(C=C)(=O)OCCO | C5H8O3
reactant | 2,6-di-t-butyl-4-methylphenol | 0.15 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
catalyst | tetramethylammonium chloride | 0.2 g | [Cl-].C[N+](C)(C)C
product | 3-(2-acryloyloxyethoxycarbonyl)propionic acid | C(C=C)(=O)OCCOC(=O)CCC(=O)O | C9H12O6
